US09382216B2
Step-1: 2-Chloro-N-(2,3-dihydroxypropyl)acetamide
3-Amino-1,2-propanediol (16.8 g, 184 mmol) was dissolved in MeOH (90 mL) at RT and the solution was diluted with ACN (acetonitrile) (550 mL) TEA (30.5 mL, 219 mmol) was added and the reaction mixture was cooled to −10° C. Chloroacetyl chloride (22.2 g, 15.6 mL, 197 mmol) was added dropwise at −10° C. for 2 h under nitrogen atmosphere and further maintained at −10° C. for 1 h and the reaction mixture was allowed to RT and stirred overnight (15 h). The solvents were removed under vacuo. The residue was purified by flash column chromatography (normal phase, gradient 1 percent to 20 percent MeOH in EtOAc) to afford the title compound (20 g) as a colorless oil m/z 168.

reactant | 3-Amino-1,2-propanediol | 184 mmol, 16.8 g | NCC(CO)O | C3H9NO2
reactant | ACN | 219 mmol, 550 mL | C(C)#N | C2H3N
reactant | Chloroacetyl chloride | 197 mmol, 15.6 mL, 22.2 g | ClCC(=O)Cl | C2H2Cl2O
solvent | MeOH | 90 mL | CO | CH4O
product | 2-Chloro-N-(2,3-dihydroxypropyl)acetamide | 20 g | ClCC(=O)NCC(CO)O | C5H10ClNO3
